US05362725
2-(3-Chloro-2-hydroxypropyl)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine
0.832 g of epichlorohydrin was added to a mixture of 4.5 ml of ethanol and 1.5 g of 1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine, whilst ice-cooling, and the mixture was stirred at room temperature for 5 hours. At the end of this time, it was concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to afford 1.56 g (yield 76%) of the title compound as a colorless foam.

reactant | epichlorohydrin | 0.832 g | C(Cl)C1CO1 | C3H5ClO
reactant | 1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | 1.5 g | C1NCCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1 | C17H18N2
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | 2-(3-Chloro-2-hydroxypropyl)-1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | 1.56 g, yield 76% | ClCC(CN1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1)O | C20H23ClN2O
